US05128355
Part B: Preparation of 2-Butyl-1-[4-(2-carbomethoxybenzoyl)benzyl]-4-chloro-5-hydroxymethylimidazole
To a solution of 2-butyl-4-chloro-5-(hydroxymethyl)imidazole (11.12 g, 54 mmol, 1 eq) in 200 mL methanol was added dropwise a freshly prepared sodium methoxide solution (1.36 g Na, 59mmol, 1.1 eq in 50 mL MeOH). After stirring for 0.5 hours, the methanol was removed in vacuo and the resultant glass was dissolved in 200 mL DMF. To this mixture was added a solution of methyl 2-[4-(bromomethyl)benzoyl]benzoate (18.00 g, 59 mmol, 1.1 eq) in DMF and the entire contents was stirred overnight under N2 at room temperature. The solvent was then removed in vacuo and the residue dissolved in 500 mL ethyl acetate and 500 mL H2O. The layers were separated and the aqueous layer was extracted twice with 500 mL portions of ethyl acetate. The organic layers were dried and concentrated and the crude product flash chromatographed to separate the two regioisomers in 60:40 hexane/ethyl acetate over silica gel. The faster moving isomer was isolated to yield 14.72 g of a glassy solid. NWR (200 MHz, CDCl3) δ8.03 (d, 1H, J=7Hz); 7.67 (m, 4H); 7.36 (d, 1H, J=7Hz); 7.05 (d, 2H, J=7Hz); 5.28 (s, 2H); 4.43 (s, 2H); 3.63 (s, 3H); 2.53 (t, 2H, J=7Hz,); 1.60 (t of t, 2H, J=7,7Hz); 1.30 (t of q, 2H, J=7,7Hz); 0.87 (t, 3H, J=7Hz). Mass Calcd. for C25H26ClF3N4O5S: 586.1264. Found: 586.1285.

reactant | 2-butyl-4-chloro-5-(hydroxymethyl)imidazole | 54 mmol, 11.12 g, 1 eq | C(CCC)C=1NC(=C(N1)Cl)CO | C8H13ClN2O
reactant | sodium methoxide | 59mmol, 50 mL, 1.36 g, 1.1 eq | C[O-].[Na+]
reactant | methyl 2-[4-(bromomethyl)benzoyl]benzoate | 59 mmol, 18.00 g, 1.1 eq | BrCC1=CC=C(C(=O)C2=C(C(=O)OC)C=CC=C2)C=C1 | C16H13BrO3
solvent | methanol | 200 mL | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Butyl-1-[4-(2-carbomethoxybenzoyl)benzyl]-4-chloro-5-hydroxymethylimidazole | 14.72 g | C(CCC)C=1N(C(=C(N1)Cl)CO)CC1=CC=C(C=C1)C(C1=C(C=CC=C1)C(=O)OC)=O | C24H25ClN2O4
